US07094801B2
Ex-6A: 5-bromo-2,4-dimethoxybenzaldehyde (20.3 g), thiophene-2-boronic acid (11.6 g) and THF (200 mL) were sequentially charged into a clean reaction vessel fitted with a reflux condenser, mechanical stirrer and nitrogen inlet adapter. Nitrogen was bubbled into the resulting solution for 20 min followed by the sequential addition of KF (10.1 g), and Pd(tBu3P)2 (0.424 g). The solution was immediately heated to 60° C. and aged for 1.5 h. The reaction was diluted with H2O (200 mL) and transferred to a separatory funnel containing EtOAc (200 mL) and H2O (200 mL). The layers were cut and the aqueous layer was extracted with EtOAc (100 mL). The combined organic cuts were filtered through a pre-washed pad of solka floc (5 g). The pad of solka floc and spent catalyst were washed with fresh EtOAc (200 mL) and this wash combined with the batch. The resultant filtrate was concentrated to dryness. The crude product was dissolved in THF (38 mL) and crystallized upon heptane (152 mL) addition. The product was filtered and then dried to a constant weight in the vacuum oven (38° C., 20 inHg) affording 19.32 g (94% yield) of desired 2,4-dimethoxy-5-thiophen-2-yl-benzaldehyde as a light off-white solid, m.p. 125–126° C. 1H-NMR (300 MHz, CDCl3): 10.34 (s, 1H), 8.12 (s, 1H), 7.44 (dd, 1H, J=3.5 and 1.5 Hz), 7.31 (dd, 1H, J=5.2 and 1.5 Hz), 7.07 (dd, 1H, J=5.2 and 3.5 Hz), 6.51 (s, 1H), 4.02 (s, 3H), 3.99 (s, 3H).

reactant | 5-bromo-2,4-dimethoxybenzaldehyde | 20.3 g | BrC=1C(=CC(=C(C=O)C1)OC)OC | C9H9BrO3
reactant | thiophene-2-boronic acid | 11.6 g | S1C(=CC=C1)B(O)O | C4H5BO2S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2,4-dimethoxy-5-thiophen-2-yl-benzaldehyde | 19.32 g, 94% yield | COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1 | C13H12O3S
